US09359352B2
Synthesis of 3-bromo-1,5-naphthyridine (C-2)
To a stirred mixture of 1,5-naphthyridine (C-1) (50.0 g, 384 mmol, 1.0 eq) and sodium acetate (62.9 g, 768 mmol, 2.0 eq) in acetic acid (300 mL) at 80° C., a solution of bromine (67.5 g, 422 mmol, 1.1 eq) in acetic acid (80 mL) was added dropwise while keeping the reaction temperature at 80° C. to 90° C. After stirring for 2 h at 80° C., the reaction was complete based on TLC analysis. The resulting mixture was cooled to RT and then filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (0-30% ethyl acetate-petroether) to afford the desired product 3-bromo-1,5-naphthyridine (C-2) (36.5 g, 45% yield) as a pale yellow solid. 1H NMR (300 MHz, CDCl3-d6) δ: 8.97 (m, 2H), 8.57 (s, 1H), 8.37 (d, J=8.4 Hz, 1H), 7.65 (m, 1H); ESI-MS m/z: 208.96 [M+H]+.

reactant | 1,5-naphthyridine | 384 mmol, 50.0 g, 1.0 eq | N1=CC=CC2=NC=CC=C12 | C8H6N2
reactant | sodium acetate | 768 mmol, 62.9 g, 2.0 eq | C(C)(=O)[O-].[Na+]
reactant | bromine | 422 mmol, 67.5 g, 1.1 eq | BrBr | Br2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-1,5-naphthyridine | 36.5 g, 45% yield | BrC=1C=NC2=CC=CN=C2C1 | C8H5BrN2
